US07700641B2
C. Synthesis of 1-(diphenylmethyl)-3-(hydroxymethyl)-3-[2-hydroxy-4-(trifluoromethoxy)phenyl]-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1E, and making non-critical variations to replace 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with 1-(diphenylmethyl)-3-[2-hydroxy-4-(trifluoromethoxy)phenyl]-1,3-dihydro-2H-indol-2-one, the title compound was obtained: MS (ES+) m/z 488 (M−17), 528 (M+23).

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)C1=CC2=C(OCO2)C=C1O | C20H20BrNO4
reactant | 1-(diphenylmethyl)-3-[2-hydroxy-4-(trifluoromethoxy)phenyl]-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)C1=C(C=C(C=C1)OC(F)(F)F)O)=O)C1=CC=CC=C1 | C28H20F3NO3
product | 1-(diphenylmethyl)-3-(hydroxymethyl)-3-[2-hydroxy-4-(trifluoromethoxy)phenyl]-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)(C1=C(C=C(C=C1)OC(F)(F)F)O)CO)=O)C1=CC=CC=C1 | C29H22F3NO4
